US08304557B2
N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
In the same manner as in Example 66-2 and using tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}carbamate (8.99 g, 25.0 mmol), cyclopropanecarbonyl chloride (3.82 mL, 42.0 mmol), N,N-dimethylacetamide (60 mL) and trifluoroacetic acid (50 mL) as starting materials, the title compound (6.32 g, 77%) was obtained as a white solid.

reactant | tert-butyl {5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}carbamate | 25.0 mmol, 8.99 g | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(OC(C)(C)C)=O)F)=N1 | C17H18FN5O3
reactant | cyclopropanecarbonyl chloride | 42.0 mmol, 3.82 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylacetamide | 60 mL | CN(C(C)=O)C | C4H9NO
product | N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 6.32 g, 77% | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
